US06995179B2
2) Synthesis of 3-(3-phenyl-2-propene-1-yl) 5-(2-cyanoethyl) 4-(3-chlorophenyl)-2-ethyl-6-methyl-1,4-dihydropyridine-3,5-dicarboxylate:
465 mg (2.0 mmol) of (3-phenyl-2-propene-1-yl) 3-oxovalerate, 309 mg (2.0 mmol) of (2-cyanoethyl) 3-aminocrotonate and 0.227 ml (2.0 mmol) of 3-chlorobenzaldehyde were heated at 70° C. under stirring in 10 ml of 2-propanol overnight. The reaction mixture was further heated at 120° C. under stirring under atmospheric pressure for 3 hours to evaporate 2-propanol. The residue was purified by the silica gel chromatography (hexane/ethyl acetate=2/1) to obtain the title compound.

reactant | (3-phenyl-2-propene-1-yl) 3-oxovalerate | 2.0 mmol, 465 mg | O=C(CC(=O)OCC=CC1=CC=CC=C1)CC | C14H16O3
reactant | (2-cyanoethyl) 3-aminocrotonate | 2.0 mmol, 309 mg | N\C(=C/C(=O)OCCC#N)\C | C7H10N2O2
reactant | 3-chlorobenzaldehyde | 2.0 mmol, 0.227 ml | ClC=1C=C(C=O)C=CC1 | C7H5ClO
solvent | 2-propanol | 10 ml | CC(C)O | C3H8O
product | 3-(3-phenyl-2-propene-1-yl) 5-(2-cyanoethyl) 4-(3-chlorophenyl)-2-ethyl-6-methyl-1,4-dihydropyridine-3,5-dicarboxylate | ClC=1C=C(C=CC1)C1C(=C(NC(=C1C(=O)OCCC#N)C)CC)C(=O)OCC=CC1=CC=CC=C1 | C28H27ClN2O4
